US09328081B2
The mixture of 4-((1E,6E)-7-(4-hydroxy-3-methoxyphenyl)-3,5-dioxohepta-1,6-dien-1-yl)-2-methoxyphenyl dimethylcarbamate (88 mg, 0.2 mmol, 1.0 eq), 2-bromoethanol (37.5 mg, 0.3 mmol, 1.5 eq) and K2CO3 (110 mg, 0.8 mmol, 4.0 eq) in acetone (10 ml) was stirred under reflux for 5 h. Then the mixture was concentrated and The resulting residue was separated by Prep-HPLC to provide 4-41E,6E)-7-(4-(2-hydroxyethoxy)-3-methoxyphenyl)-3,5-dioxohepta-1,6-dien-1-yl)-2-methoxyphenyl dimethylcarbamate (35 mg, 36.1%). LRMS (M+H+) m/z calculated 484.2. found 484.2. 1H NMR (CDCl3, 400 MHz) δ 7.58-7.62 (dd, 2H), 7.07-7.13 (m, 5H), 6.91 (d, 1H), 6.48-6.56 (m, 2H), 5.83 (s, 1H), 4.14-4.17 (t, 2H), 3.96-3.99 (t, 2H), 3.91 (s, 3H), 3.88 (s, 3H), 3.13 (s, 3H), 3.02 (s, 3H).

reactant | 4-((1E,6E)-7-(4-hydroxy-3-methoxyphenyl)-3,5-dioxohepta-1,6-dien-1-yl)-2-methoxyphenyl dimethylcarbamate | 0.2 mmol, 88 mg, 1.0 eq | CN(C(OC1=C(C=C(C=C1)\C=C\C(CC(\C=C\C1=CC(=C(C=C1)O)OC)=O)=O)OC)=O)C | C24H25NO7
reactant | 2-bromoethanol | 0.3 mmol, 37.5 mg, 1.5 eq | BrCCO | C2H5BrO
reactant | K2CO3 | 0.8 mmol, 110 mg, 4.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-methoxyphenyl dimethylcarbamate | 35 mg, 36.1% | CN(C(OC1=C(C=CC=C1)OC)=O)C | C10H13NO3
